US09120756B2
9.9 Synthesis (3-tert-butyl-1-(phenylsulfonyl)-1H-pyrazol-5-yl)methanamine (Employed for the Synthesis of Example Compound No. 108)
To a stirred solution of 3-tert-butyl-1H-pyrazole-5-carbonitrile (3 g, 20 mmol) in dichloromethane (30 ml, 10 times) TEA (2.44 g (3.36 ml), 24 mmol, 1.2 eq) was added at 00° C. Then phenylsulfonyl chloride (2.84 g (2 ml), 10 mmol, 0.8 eq) was added at 00° C. and the reaction mass was stirred for 12 h at room temperature. Progress of the reaction was monitored by TLC (20% ethyl acetate-hexane, Rf˜0.6). On completion of the reaction, ice water (20 ml) was added to reaction mixture, organic layer was separated and washed with 1N HCl (2×20 ml followed by with water (2×15 ml), Dried the contents over sodium sulfate, concentrated under reduced pressure and the crude obtained was recrystallised from hexane to yield the required product as an off white solid (4 g, 68%).

reactant | 3-tert-butyl-1H-pyrazole-5-carbonitrile | 20 mmol, 3 g | C(C)(C)(C)C1=NNC(=C1)C#N | C8H11N3
reactant | phenylsulfonyl chloride | 10 mmol, 2 ml, 2.84 g, 0.8 eq | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (3-tert-butyl-1-(phenylsulfonyl)-1H-pyrazol-5-yl)methanamine | C(C)(C)(C)C1=NN(C(=C1)CN)S(=O)(=O)C1=CC=CC=C1 | C14H19N3O2S
